US06114390
c) 4-(Aminocarbonylmethyl)benzenemethanamine
0.65 g (4.057 mMol) of 4-cyanophenylacetamide were dissolved in 50 ml of methanol which was saturated with ammonia at+10° C. After the addition of 0.3 g of Raney nickel the mixture was hydrogenated in an autoclave at 40° C. under 5 bar of hydrogen pressure. After the uptake of hydrogen had ended the catalyst was filtered off and excess ammonia was distilled off with the solvent. The residue was acidified with 20 percent hydrochloric acid against Congo red and the non-basic impurities were removed by etherification. The ether extract was discarded, the aqueous solution was made alkaline with sodium hydroxide with external cooling and exhaustively extracted with ether. The ether solution was dried over caustic potash and freed from solvent, the residue was triturated with a few drops of ether and suction filtered. 610 mg (100% of theory) of colourless crystals were obtained, Mp. 138-140° C. IR (KBr): 1660.6, 1637.5 (Amide-C=O) cm-1

reactant | 4-cyanophenylacetamide | 4.057 mMol, 0.65 g | C(#N)C1=CC=C(C=C1)CC(=O)N | C9H8N2O
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
reactant | KBr | [K+].[Br-]
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | 0.3 g | [Ni] | Ni
product | 4-(Aminocarbonylmethyl)benzenemethanamine | NC(=O)CC1=CC=C(C=C1)CN | C9H12N2O
